US05704948
a) Preparation of 4-oxo-4,5,6,7-tetrahydro-1-N-(β,γ-dihydroxypropyl)indole
9.4 g of 2,3-dihydroxypropylamine were added to a solution of 13.6 g of 4-oxo-4,5,6,7-tetrahydrobenzofuran in 200 cm3 of ethanol. The reaction medium was heated at 150° C. for 9 hours. After evaporation of the solvent and purification of the crude product on silica gel (ethyl acetate/methanol=9/1 ), 11.2 g of 4-oxo-4,5,6,7-tetrahydro-1-N-(β,γ-dihydroxypropyl)indole were recovered in the form of an oil.

reactant | 2,3-dihydroxypropylamine | 9.4 g | OC(CN)CO | C3H9NO2
reactant | 4-oxo-4,5,6,7-tetrahydrobenzofuran | 13.6 g | O=C1CCCC2=C1C=CO2 | C8H8O2
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
product | 4-oxo-4,5,6,7-tetrahydro-1-N-(β,γ-dihydroxypropyl)indole | O=C1C=2C=CN(C2CCC1)CC(CO)O | C11H15NO3
